US04874775
N-(4-methylphenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide
A 3.5 g. portion of 3-(4-methylphenylaminomethyl)pyridine was dissolved in 15 ml. of dichloromethane, and 2.7 g. of potassium carbonate and 2 ml. of methanesulfonyl chloride were added. The mixture was stirred overnight under reflux, and was then extracted with 20 ml. of water and evaporated under vacuum. The residue was triturated with diethyl ether and dried to obtain 4.5 g. of the desired product, m.p. 143°-146°.

reactant | 3-(4-methylphenylaminomethyl)pyridine | CC1=CC=C(C=C1)NCC=1C=NC=CC1 | C13H14N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(4-methylphenyl)-N-(pyridin-3-ylmethyl)methanesulfonamide | CC1=CC=C(C=C1)N(S(=O)(=O)C)CC=1C=NC=CC1 | C14H16N2O2S
